US06576766B1
(f) 3-Acetoxy-5-formylnaphtho[2,3-c]furan-1(3H)-one
To a solution of 5-formyl-3-hydroxynaphtho[2,3-c]furan-1(3H)-one (190 mg, 0.83 mmol) pyridine (1.66 mL) at rt was added Ac2O (126 mg, 0.117 mL, 1.25 mmol). The solution was stirred at rt for 18 hours and then poured into brine and extracted with EtOAc. The extract was dried over MgSO4 and concentrated The crude material was chromatographed on silica get (3:1 hexanes:EtOAc) to give the title compound (100 mg, 44%).

reactant | 5-formyl-3-hydroxynaphtho[2,3-c]furan-1(3H)-one | 0.83 mmol, 1.66 mL, 190 mg | C(=O)C=1C2=CC3=C(C(OC3O)=O)C=C2C=CC1 | C13H8O4
reactant | Ac2O | 1.25 mmol, 0.117 mL, 126 mg | CC(=O)OC(=O)C | C4H6O3
solvent | brine | [Cl-].[Na+].O
product | 3-Acetoxy-5-formylnaphtho[2,3-c]furan-1(3H)-one | 100 mg, 44% | C(C)(=O)OC1C2=C(C(O1)=O)C=C1C=CC=C(C1=C2)C=O | C15H10O5
